US06559163B2
Preparation of (R)-1-[[2-(3,4-difluoroPhenyl)-4 -quinoliny]carbonyl]-2-hydroxymethyl-pyrrolidine
A mixture of 2-(3,4-difluoroPhenyl)-4-quinoline carboxylic acid (100 mg), BOP (220 mg) and (R)-(−)-pyrrolidine methanol (0.1 mL) in 1 ml of DMF is stirred at room temperature for 18 hours. The mixture is added to saturated aqueous NaHCO3 solution and extracted three times with EtOAc. The combined EtOAc layers are washed with brine and water, dried over Na2SO4, filtered and concentrated to afford a foam. The foam is purified by preparative silica gel thin layer chromatography, using 10% methanol in methylene chloride as the developing solvent. The desired product is obtained as a free base. 1H NMR (CDCl3) d 1.77 -1.87(3H, m), 2.16-2.22 (1H, m), 3.18-3.26 (2H, m), 3.83-3.95 (2H, m), 4.52-4.56 (1H, m), 7.23-7.30 (1H, m), 7.57 (1H, m), 7.73-7.78 (2H, m), 7.83 (1H, d), 7.87 (1H, m), 8.03-8.10 (1H, m), 8.15 (1H, d). The hydrochloride salt was prepared by treating the free base in EtOAc with a solution of hydrogen chloride in ether and collecting the resulting solid by filtration.

reactant | 2-(3,4-difluoroPhenyl)-4-quinoline carboxylic acid | 100 mg | FC=1C=C(C=CC1F)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H9F2NO2
reactant | BOP | 220 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (R)-1-[[2-(3,4-difluoroPhenyl)-4 -quinoliny]carbonyl]-2-hydroxymethyl-pyrrolidine | FC=1C=C(C=CC1F)C1=NC2=CC=CC=C2C(=C1)C(=O)N1[C@H](CCC1)CO | C21H18F2N2O2
